2113-10-28 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2113-10-27**] 04:00 PM
 ARTERIAL LINE - START [**2113-10-27**] 09:30 PM
   - Decreased tidal volumes to decrease minute ventilation as patient was
   alkalotic with low CO2, high respiratory rate own her own.  Decreased
   oxygen.
   - 500 cc bolus for low urine output, marginal BP (MAP 55-65)
   - Son confirmed code status (no chest compressions or resuscitation);
   he plans to be in town by [**Last Name (LF) 570**], [**First Name3 (LF) 178**] meet to discuss possible
   tracheostomy.
   This morning, patient opening eyes in response to voice and tactile
   stimuli. Moving all extremities.
   Allergies:
   NKDA
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-27**] 05:00 PM
   Piperacillin - [**2113-10-28**] 01:47 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-27**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-27**] 10:26 PM
   Other medications:
   Vitamin K 5 mg x1, Tylenol, Colace, Keppra 250 mg, Albuterol/Atrovent
   nebs, Regular insulin sliding scale, venlafaxine, lansoprazole,
   timolol, ASA 81 mg, levothyroxine
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2113-10-28**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 90 (89 - 121) bpm
   BP: 110/44(64) {77/42(60) - 116/47(64)} mmHg
   RR: 27 (22 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,170 mL
                                                                    372 mL
   PO:
             TF:
   IVF:
                                                                    870 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    155 mL
   Urine:
                                                                    690 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    480 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   Vt (Spontaneous): 271 (271 - 271) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 200
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.52/33/85.[**Numeric Identifier 128**]/23/3
   Ve: 8.4 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General: Intubated, in NAD, appears to be comfortable on ventilator.
   Opens eyes occasionally.
   HEENT: NC/AT. Slightly dry mucous membranes. Left pupil > right, both
   reactive. No scleral icterus. ETT in place.
   Neck: Supple, resolving ecchymosis over left SCM.
   Lungs: Rhocherous sounding breath sounds, transmitted upper airway
   noise, bilateral breath sounds present.
   Cardiac: Regular, possible soft SEM, no rubs or gallops, difficult to
   hear over ventilator
   Abd: Soft, edematous, +BS, PEG in place, ND
   Extr: Pitting edema throughout all extremities. Hands warm, feet remain
   slightly cool. Pulses 1+ at radial, PT/DP.
   Neuro: Spontaneous eye opening, bilateral foot movement and right hand
   movement. Withdrawals to noxious stimuli of feet, grimaces when nailbed
   pressed bilaterally.
   Labs / Radiology
   175 K/uL
   10.4 g/dL
   93 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.8 mEq/L
   66 mg/dL
   108 mEq/L
   142 mEq/L
   32.1 %
   13.2 K/uL
        [image002.jpg]
                             [**2113-10-27**]  08:05 PM
                             [**2113-10-27**]  10:25 PM
                             [**2113-10-28**]  01:59 AM
                             [**2113-10-28**]  02:09 AM
   WBC
   10.1
   13.2
   Hct
   33.5
   32.1
   Plt
   169
   175
   Cr
   1.4
   1.3
   TropT
   0.08
   0.08
   TCO2
   24
   28
   Glucose
   120
   93
   Other labs: PT / PTT / INR:18.5/56.7/1.7, CK / CKMB /
   Troponin-T:22//0.08, ALT / AST:[**10-29**], Alk Phos / T Bili:52/1.2,
   Differential-Neuts:84.9 %, Lymph:9.7 %, Mono:5.0 %, Eos:0.2 %,
   Fibrinogen:217 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:2.5 g/dL, LDH:393
   IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Blood cultures 9/26: NGTD x2
   Sputum sample [**10-27**]: >25 PMNs, gram positive cocci in pairs and chains,
   culture NGTD
   Urine culture [**10-27**]: NGTD
   CXR: ETT positioned slightly low, pleural effusion, atelectasis
   Assessment and Plan
   Patient is a [**Age over 90 382**] year old female with history of congestive heart
   failure, coronary artery disease, diabetes mellitus, and prior CVA who
   presents from her nursing home with respiratory distress, intubated in
   the emergency room for hypoxia, acidemia, hypercarbia, and increased
   work of breathing.
   .
   #) Respiratory failure: Presumed to be secondary to volume overloaded
   state, cannot rule out infection. Hypoxia also likely in part from
   pulmonary hypertension.
   - Lasix gtt today for steady gentle diuresis
goal 500 to 1000 cc net
   out. Held off on diuresis overnight to ensure lactate was trending down
   and BP/UOP remained stable (to ensure sepsis was not developing).
   - Zosyn and vanco to cover hospital acquired PNA (hx MRSA sputum),
   today is day 2, given elevated lactate, borderline blood pressure, and
   question of hypothermia.
   - Son will be coming from [**Last Name (LF) 4907**], [**First Name3 (LF) 178**] meet with team to discuss
   tracheostomy. He re-iterated that aside from resuscitation, he would
   want everything else done.
   - Decreased tidal volume to decrease minute ventilation given
   respiratory alkalosis; patient continues to overbreathe the vent. Will
   go down on oxygen to 40% as well.
   - Ruled out for MI (stable troponin 0.08, likely [**3-4**] to minor leak from
   tachycardia upon arrival versus delayed clearance with ARF).
   - Will transducer CVP to see if low, which would be more consistent
   with sepsis.
   - Albuterol/atrovent PRN.
   .
   #) Hypothermia: Impoved
only feet are cool at this time. Could be a
   reflection of vasoconstriction given her CHF (and resultant decreased
   ability for increasing cardiac output), or developing sepsis.
   - Will continue to monitor blood, sputum, and urine cultures.
   - TSH and cortisol pending.
   - Lactate continues to trend down, will continue to monitor.
   .
   #) Systolic and diastolic CHF: Elevated BNP, very edematous state
   support CHF exacerbation.
   - Lasix gtt as noted above, will try for goal UOP >40cc/hr once BP
   stable
   - Holding BB in setting of hypotension.
   - Not on ACE-i at baseline.
   - Recent echo as noted above.
   - Will check CVP, if elevated further supports volume overloaded
   status.
   .
   #) Hypotension: Resolved. [**Month (only) 60**] have been due to discrepencies between
   a-line and manual cuff, however may also have been secondary to lasix
   bolus (100 mg IV) given in ED. Currently appears that sepsis was less
   likely. No recent steroid use that would make adrenal insufficiency
   more likely. Baseline BP is likely low given low EF, but further
   decline in BP could also represent cardiogenic shock.
   - AM cortisol pending.
   - Diuresis as tolerated by BP, holding BB.
   - Following a-line pressures as these have been 10-20 pts higher than
   manual at times.
   .
   #) CAD: Ruled out for MI as noted above. Troponin was at baseline on
   admission, stable x2 at 0.08, flat CK. [**Month (only) 60**] have some troponin leak from
   tachycardia in setting of acute renal failure.
   - Continuing ASA
   - Once able to (by BP), will add back carvediolol
   .
   #) DM: Cont sliding scale insulin.
   #) Coagulopathy: PTT improved, but INR still elevated. [**Month (only) 60**] be due to
   poor nutritional status; liver synthetic function otherwise fairly
   unremarkable, plts WNL. Appears to not be [**Last Name **] problem based on old
   values. Fibrinogen was WNL.
   - FDP, other DIC labs pending.
   - Holding SQ heparin until PTT back to normal.
   - Monitor for signs of bleeding.
   .
   #) History of CVA: Per chart, non-verbal at baseline. Will continue to
   assess mental status and neurologic exam. This morning she was noted to
   be moving both legs as well as right arm and opening eyes. Given
   elevated PTT, will need to discuss baseline neurologic status with son,
   possibly image head if she does not appear to be at baseline after
   discussion with son.
   .
   #) Hypothyroidism: Continue home dose of levothyroxine, TSH pending.
   .
   #) Seizure disorder: Continuing home dose of keppra.
   .
   #) Dementia/Depression: Continuing Venlafaxine.
   .
   #) Acute renal failure:  Suspect this is secondary to total body fluid
   overload but patient remains relatively intravascularly dry; suspect
   diuresis will help with forward flow and improve function as it has for
   patient in the past.
   - Will continue to monitor trend, send urine lytes, consider renal u/s
   if not improving.
   .
   #) Son [**Name (NI) 4874**] [**Name (NI) 5044**] (HCP) home - [**Telephone/Fax (1) 5045**] work - [**Telephone/Fax (1) 5046**]
   Called son and confirmed code status: Intubation and pressors
   acceptible, would not want resuscitation (eg no chest compressions). He
   plans to be in town [**Telephone/Fax (1) 570**] [**10-30**] and would be available for a family
   meeting to discuss tracheostomy.
   ICU Care
   Nutrition:
   Tube feeds per protocol from last admission
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2113-10-27**] 04:00 PM
   Arterial Line - [**2113-10-27**] 09:30 PM
   * Request for PICC made for today, will d/c femoral CVL once PICC in
   place.
   Prophylaxis:
   DVT: Pneumoboots, holding heparin as noted above.
   Stress ulcer:  PPI
   VAP:  PPI, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: INTUBATION desired, no chest compressions. Pressors
   desired
   Disposition: ICU

2113-10-28 09:31:00 Physician Attending Progress Note
Chief Complaint: intubated/sedated
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2113-10-27**] 04:00 PM
 ARTERIAL LINE - START [**2113-10-27**] 09:30 PM
   Aline pressures > manual cuff pressures, 110s overnight
   tidal volumes decreased, continues to have high rr
   lactate improving
   she ruled out for MI
   Access: femoral line, aline, awaiting PICC
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-27**] 05:00 PM
   Piperacillin - [**2113-10-28**] 01:47 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-10-27**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2113-10-27**] 10:26 PM
   Other medications:
   keppra 250
   insulin
   venlafaxine
   timolol
   asa 81
   synthroid
   vanc
   colace 100 [**Hospital1 **]
   tylenol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-28**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 90 (89 - 121) bpm
   BP: 110/44(64) {77/42(60) - 116/47(64)} mmHg
   RR: 27 (22 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,170 mL
                                                                    387 mL
   PO:
             TF:
   IVF:
                                                                    870 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    155 mL
   Urine:
                                                                    690 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    480 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   Vt (Spontaneous): 271 (271 - 271) mL
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 200
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.49/34/172/23/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 344
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: L>R reactive
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), cool distal extremities
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Responds to: opens eyes, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.4 g/dL
   175 K/uL
   93 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.8 mEq/L
   66 mg/dL
   108 mEq/L
   142 mEq/L
   32.1 %
   13.2 K/uL
        [image002.jpg]
                             [**2113-10-27**]  08:05 PM
                             [**2113-10-27**]  10:25 PM
                             [**2113-10-28**]  01:59 AM
                             [**2113-10-28**]  02:09 AM
                             [**2113-10-28**]  08:08 AM
   WBC
   10.1
   13.2
   Hct
   33.5
   32.1
   Plt
   169
   175
   Cr
   1.4
   1.3
   TropT
   0.08
   0.08
   TCO2
   24
   28
   27
   Glucose
   120
   93
   Other labs: PT / PTT / INR:18.5/56.7/1.7, CK / CKMB /
   Troponin-T:22//0.08, ALT / AST:[**10-29**], Alk Phos / T Bili:52/1.2,
   Differential-Neuts:84.9 %, Lymph:9.7 %, Mono:5.0 %, Eos:0.2 %,
   Fibrinogen:217 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:393
   IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Patient is a [**Age over 90 382**] year old female with history of congestive heart
   failure, coronary artery disease, diabetes mellitus, and prior CVA who
   presents from her nursing home with respiratory distress, intubated in
   the emergency room for hypoxia, acidemia, hypercarbia, and increased
   work of breathing.
   .
   #) Respiratory failure: flash pulmonary edema in setting of heart
   failure, low oncotic pressure +/- pna with slight opacity RML.  BNP
   elevated, but bps tenuous, creatinine up a bit.  Aline reveals higher
   BP than peripherals.
    - will start lasix drip for diuresis, goal - 1L
    - for PNA, will f/u sputum culture, cont vanc/zosyn given h/o MRSA,
   multiple hospitalizations
    - will cont ROMI
    - cont albuterol/atrovent
   #) Respiratory alkalosis: overbreathing on vent, oxygenating well
    - cont wean FIO2
   #) Hypothermia: Patient current is normothermic,this was likely [**3-4**]
   being cool and clamped down in setting of cardiogenic shock
   - Warming blankets.
   - Will continue to monitor blood, sputum, and urine cultures.
   - Will check TSH with AM labs.
   - Repeat lactate later to ensure trending downward.
    - will continue to diurese with lasix drip with goal to improve
   hemodynamics
   .
   #) Systolic and diastolic CHF: Goal will be for diuresis once BP is
   stable (needed IVF bolus upon arrival for SBP 60's).
   - Lasix gtt as noted above, will try for goal UOP >40cc/hr once BP
   stable
   - Holding BB in setting of hypotension.
   - Not on ACE-i at baseline, will hold for now given tenuous volume
   status, consider initiating once volume status under better control
   - Recent echo as noted above.
   .
   #) Hypotension: Noted upon arrival to floor, likely [**3-4**] cardiogenic
   shock possibly exacerbated by lasix in ED.  Cannot r/o sepsis.  No
   recent steroid use that would make adrenal insufficiency more likely.
   Baseline BP is likely low given low EF, but further decline in BP could
   also represent cardiogenic shock.  Aline tracings demonstrating
   improved BPs in 110s.
   - AM cortisol
   - IVF bolus x1, will need to be careful with IVFs given low EF, but if
   developing sepsis will need IVF resuscitation.
   - Consider levophed if needed.
   .
   #) CAD: Ruling out for MI as noted above. Troponin was at baseline on
   admission, flat CK. [**Month (only) 60**] have some troponin leak from tachycardia in
   setting of acute renal failure.
   - Continuing ASA
   - Once able to (by BP), will add back carvediolol
   .
   #) DM: Cont sliding scale insulin.
   #) Coagulopathy: Unclear why PT, PTT, and INR all elevated. Patient is
   not listed as taking coumadin or other anticoagulation agents. She was
   discharged on SQ heparin, but this would not accound for elevated INR
   and PT. It is possible she has some degree of coagulopathy with her
   hypothermia. Fibrinogen was WNL. DIC v blocking [**Doctor Last Name **] v vit K
   deficiency.
   - Will check FDP with next set of labs.
   - Holding SQ heparin until PTT back to normal.
   - Monitor for signs of bleeding.
   .
   #) History of CVA: Per chart, non-verbal at baseline. Will continue to
   assess mental status and neurologic exam, if persistent deficits then
   would consider head CT.
   .
   #) Hypothyroidism: Continue home dose of levothyroxine, checking TSH.
   .
   #) Seizure disorder: Continuing home dose of keppra.
   .
   #) Dementia/Depression: Continuing Venlafaxine.
   .
   #) Acute renal failure: Per prior ICU attending, did well with diuresis
   to improve forward flow with ARF. Suspect this is secondary to total
   body fluid overload but patient remains relatively intravascularly dry.
   BP currently will not tolerate further diuresis based on BP drop from
   earlier, so will bolus to help UOP, but will ultimately need diuresis
   to help forward flow.
   - Will continue to monitor trend, send urine lytes, consider renal u/s
   if not improving.
   .
   #) Son [**Name (NI) 4874**] [**Name (NI) 5044**] (HCP) home - [**Telephone/Fax (1) 5045**] work - [**Telephone/Fax (1) 5046**]
   Called son and confirmed code status: Intubation and pressors
   acceptible, would not want resuscitation (eg no chest compressions). He
   plans to be in town Monday [**10-30**] and would be available for a family
   meeting to discuss tracheostomy.
   ICU Care
   Nutrition:
   Comments: home tube feeds - fibersouce HN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-10-27**] 04:00 PM
   Arterial Line - [**2113-10-27**] 09:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2113-10-29 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2113-10-28**] 05:46 PM
 EKG - At [**2113-10-28**] 09:30 PM
 MULTI LUMEN - STOP [**2113-10-28**] 11:04 PM
   -          ABG 12p: 7.48/35/140
   -          TF started via PEG
   -          R IJ placed, fem line d/c
   -          EKG with NOAF vs sinus arrhythmia 110-130s, held BB given
   hypoTN/CHF
   -          TSH 1.4
   -          5 pm ABG: 7.47/35/132/26, lactate 1.7
   -          Bolused NS 250 x 2 for low UOP, tachy
   -          Started lasix gtt
   -          Crusted lesions on abd? Zoster (appear old, had rash in [**Hospital Unit Name 44**]
   last week [**Name8 (MD) **] RN)
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-27**] 05:00 PM
   Piperacillin - [**2113-10-28**] 01:47 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-10-29**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2113-10-28**] 08:34 AM
   Fentanyl - [**2113-10-29**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-29**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 119 (81 - 130) bpm
   BP: 89/51(63) {82/49(63) - 116/86(127)} mmHg
   RR: 23 (18 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 18 (6 - 20)mmHg
   Total In:
                                                                  1,870 mL
                                                                    762 mL
   PO:
   TF:
                                                                    166 mL
                                                                    331 mL
   IVF:
                                                                  1,244 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                    434 mL
                                                                     55 mL
   Urine:
                                                                    434 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,436 mL
                                                                    707 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 113
   PIP: 12 cmH2O
   Plateau: 7 cmH2O
   SpO2: 94%
   ABG: 7.44/35/137/20/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 457
   Physical Examination
   Gen: Intubated, arouses to voice (not on sedation)
   HEENT:
   Neck: R IJ in place
   Lungs: Crackles bilaterally
   Heart: s1s2 tachy irregular
   Abd: soft, NT/ND
   Ext: cool
   Labs / Radiology
   158 K/uL
   10.3 g/dL
   195 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.7 mEq/L
   68 mg/dL
   110 mEq/L
   142 mEq/L
   33.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2113-10-27**]  08:05 PM
                             [**2113-10-27**]  10:25 PM
                             [**2113-10-28**]  01:59 AM
                             [**2113-10-28**]  02:09 AM
                             [**2113-10-28**]  08:08 AM
                             [**2113-10-28**]  12:18 PM
                             [**2113-10-28**]  04:31 PM
                             [**2113-10-28**]  05:01 PM
                             [**2113-10-29**]  03:57 AM
                             [**2113-10-29**]  04:40 AM
   WBC
   10.1
   13.2
   14.9
   16.4
   Hct
   33.5
   32.1
   29.9
   33.0
   Plt
   169
   175
   140
   158
   Cr
   1.4
   1.3
   1.3
   1.4
   TropT
   0.08
   0.08
   0.08
   0.07
   TCO2
   24
   28
   27
   27
   26
   25
   Glucose
   120
   93
   120
   195
   Other labs: PT / PTT / INR:18.0/37.8/1.6, CK / CKMB /
   Troponin-T:22/2/0.07, ALT / AST:[**10-27**], Alk Phos / T Bili:62/1.2,
   Differential-Neuts:92.4 %, Lymph:4.4 %, Mono:2.9 %, Eos:0.3 %,
   Fibrinogen:217 mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.5 g/dL, LDH:393
   IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   MICRO:
   Blood cultures 9/26: NGTD x2
   Sputum sample [**10-27**]: >25 PMNs, gram positive cocci in pairs and chains,
   culture NGTD
   Urine culture [**10-27**]: NGTD
   CXR:
   Assessment and Plan
   Patient is a [**Age over 90 382**] year old female with history of congestive heart
   failure, coronary artery disease, diabetes mellitus, and prior CVA who
   presents from her nursing home with respiratory distress, intubated in
   the emergency room for hypoxia, acidemia, hypercarbia, and increased
   work of breathing.
   .
   #) Respiratory failure: Presumed to be secondary to volume overloaded
   state, cannot rule out infection. Hypoxia also likely in part from
   pulmonary hypertension.
   - Lasix gtt today for steady gentle diuresis
goal 500 to 1000 cc net
   out. Initially could not tolerate with HR/BP but slowly restarted
   - Zosyn and vanco to cover hospital acquired PNA (hx MRSA sputum),
   today is day 3, given elevated lactate, borderline blood pressure, and
   question of hypothermia.
   - Son will be coming from [**Last Name (LF) 4907**], [**First Name3 (LF) 178**] meet with team to discuss
   tracheostomy. He re-iterated that aside from resuscitation, he would
   want everything else done.
   - Decreased tidal volume to decrease minute ventilation given
   respiratory alkalosis; patient continues to overbreathe the vent. Will
   go down on oxygen to 40% as well.
   - Ruled out for MI (stable troponin 0.08, likely [**3-4**] to minor leak from
   tachycardia upon arrival versus delayed clearance with ARF).
   - Will transducer CVP to see if low, which would be more consistent
   with sepsis.
   - Albuterol/atrovent PRN.
   .
   #) Hypothermia: Impoved
only feet are cool at this time. Could be a
   reflection of vasoconstriction given her CHF (and resultant decreased
   ability for increasing cardiac output), or developing sepsis.
   - Will continue to monitor blood, sputum, and urine cultures.
   - TSH and cortisol pending.
   - Lactate continues to trend down, will continue to monitor.
   .
   #) Systolic and diastolic CHF: Elevated BNP, very edematous state
   support CHF exacerbation.
   - Lasix gtt as noted above, will try for goal UOP >40cc/hr once BP
   stable
   - Holding BB in setting of hypotension.
   - Not on ACE-i at baseline.
   - Recent echo as noted above.
   - Will check CVP, if elevated further supports volume overloaded
   status.
   .
   #) Hypotension: Resolved. [**Month (only) 60**] have been due to discrepencies between
   a-line and manual cuff, however may also have been secondary to lasix
   bolus (100 mg IV) given in ED. Currently appears that sepsis was less
   likely. No recent steroid use that would make adrenal insufficiency
   more likely. Baseline BP is likely low given low EF, but further
   decline in BP could also represent cardiogenic shock.
   - cortisol ordered.
   - Diuresis as tolerated by BP, holding BB.
   - Following a-line pressures as these have been 10-20 pts higher than
   manual at times.
   .
   #) CAD: Ruled out for MI as noted above. Troponin was at baseline on
   admission, stable x2 at 0.08, flat CK. [**Month (only) 60**] have some troponin leak from
   tachycardia in setting of acute renal failure.
   - Continuing ASA
   - Once able to (by BP), will add back carvediolol
   .
   #) DM: Cont sliding scale insulin.
   #) Coagulopathy: PTT improved, but INR still elevated. [**Month (only) 60**] be due to
   poor nutritional status; liver synthetic function otherwise fairly
   unremarkable, plts WNL. Appears to not be [**Last Name **] problem based on old
   values. Fibrinogen was WNL.
   - FDP, other DIC labs pending.
   - Holding SQ heparin until PTT back to normal.
   - Monitor for signs of bleeding.
   .
   #) History of CVA: Per chart, non-verbal at baseline. Will continue to
   assess mental status and neurologic exam. This morning she was noted to
   be moving both legs as well as right arm and opening eyes. Given
   elevated PTT, will need to discuss baseline neurologic status with son,
   possibly image head if she does not appear to be at baseline after
   discussion with son.
   .
   #) Hypothyroidism: Continue home dose of levothyroxine, TSH pending.
   .
   #) Seizure disorder: Continuing home dose of keppra.
   .
   #) Dementia/Depression: Continuing Venlafaxine.
   .
   #) Acute renal failure:  Suspect this is secondary to total body fluid
   overload but patient remains relatively intravascularly dry; suspect
   diuresis will help with forward flow and improve function as it has for
   patient in the past.
   - Will continue to monitor trend, send urine lytes, consider renal u/s
   if not improving.
   .
   #) Son [**Name (NI) 4874**] [**Name (NI) 5044**] (HCP) home - [**Telephone/Fax (1) 5045**] work - [**Telephone/Fax (1) 5046**]
   Called son and confirmed code status: Intubation and pressors
   acceptible, would not want resuscitation (eg no chest compressions). He
   plans to be in town Monday [**10-30**] and would be available for a family
   meeting to discuss tracheostomy.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2113-10-28**] 11:27 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-10-27**] 09:30 PM
   Multi Lumen - [**2113-10-28**] 05:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: INTUBATION desired, no chest compressions. Pressors
   desired
   Disposition:

2113-10-29 09:35:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2113-10-28**] 05:46 PM
 EKG - At [**2113-10-28**] 09:30 PM
 MULTI LUMEN - STOP [**2113-10-28**] 11:04 PM
   R IJ placed, femoral line placed
   tube feeds initiated via PEG
   persistent tachycardia, EKG obtained appears to be AF w rvr
   given 250cc boluses for low uop
   started on lasix drip but d/c for tachy and Hotn, then restarted early
   am
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-27**] 05:00 PM
   Piperacillin - [**2113-10-28**] 01:47 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-10-29**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2113-10-29**] 05:30 AM
   Other medications:
   keppra 250 qday
   RISS
   venlafexane
   prevacie
   timolol
   asa 81
   synthroid 125
   vanc
   colace
   lasix gtt
   zosyn
   chlorhexadine
   Fentanyl prn, albuterol prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-29**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96.1
   HR: 122 (81 - 130) bpm
   BP: 102/58(72) {82/49(63) - 114/86(127)} mmHg
   RR: 28 (18 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 12 (6 - 20)mmHg
   Total In:
                                                                  1,870 mL
                                                                    960 mL
   PO:
   TF:
                                                                    166 mL
                                                                    407 mL
   IVF:
                                                                  1,244 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                    434 mL
                                                                     75 mL
   Urine:
                                                                    434 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,436 mL
                                                                    885 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 113
   PIP: 17 cmH2O
   Plateau: 9 cmH2O
   SpO2: 96%
   ABG: 7.45/36/87.[**Numeric Identifier 244**]/20/1
   Ve: 8.7 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Well nourished, intubated, minimally
   Eyes / Conjunctiva: Lpupil > R, reactive
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, Wheezes : upper lobes R>L anteriorly)
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, healing hyperpigmented lesion in dermatomal dist L
   abd
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Increased
   Labs / Radiology
   10.3 g/dL
   158 K/uL
   195 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.7 mEq/L
   68 mg/dL
   110 mEq/L
   142 mEq/L
   33.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2113-10-27**]  10:25 PM
                             [**2113-10-28**]  01:59 AM
                             [**2113-10-28**]  02:09 AM
                             [**2113-10-28**]  08:08 AM
                             [**2113-10-28**]  12:18 PM
                             [**2113-10-28**]  04:31 PM
                             [**2113-10-28**]  05:01 PM
                             [**2113-10-29**]  03:57 AM
                             [**2113-10-29**]  04:40 AM
                             [**2113-10-29**]  08:58 AM
   WBC
   13.2
   14.9
   16.4
   Hct
   32.1
   29.9
   33.0
   Plt
   175
   140
   158
   Cr
   1.3
   1.3
   1.4
   TropT
   0.08
   0.08
   0.07
   TCO2
   24
   28
   27
   27
   26
   25
   26
   Glucose
   93
   120
   195
   Other labs: PT / PTT / INR:18.0/37.8/1.6, CK / CKMB /
   Troponin-T:22/2/0.07, ALT / AST:[**10-27**], Alk Phos / T Bili:62/1.2,
   Differential-Neuts:92.4 %, Lymph:4.4 %, Mono:2.9 %, Eos:0.3 %,
   Fibrinogen:217 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:2.5 g/dL, LDH:393
   IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: 745/36/88/26
   lactate 3.2
   trop 0.07
   Imaging: slight increase in opacity RML, obscured L heart border
   ETT at carina
   L IJ at RA
   Microbiology: blood cx [**10-27**] ngtdc
   sputum [**10-27**] gpc pairs and chains
   cdif [**10-28**] neg
   ECG: AF 123
   Assessment and Plan
   Patient is a [**Age over 90 382**] year old female with history of congestive heart
   failure, coronary artery disease, diabetes mellitus, and prior CVA who
   presents from her nursing home with respiratory distress, intubated in
   the emergency room for hypoxia, acidemia, hypercarbia, and increased
   work of breathing.
   #) Respiratory failure: flash pulmonary edema in setting of heart
   failure, low oncotic pressure +/- pna with slight opacity RML.  BNP
   elevated, but bps tenuous, creatinine up a bit.  Aline reveals higher
   BP than peripherals.  She has some evidence of hyperresponsive airways
   with wheezes on exam, likely [**3-4**] volume
    - cont lasix drip for diuresis, goal - 1L
    - for PNA, will f/u sputum culture, cont vanc/zosyn given h/o MRSA,
   multiple hospitalizations currently day # 3
    - cont albuterol/atrovent
    - will start PS
    - will pull back ETT
    #2) Shock: distributive v cardiogenic: afebrile, but wbc increasing,
   sputum w GPC in pairs and chains, but on admission was in pulm
   edema/cardiogenic shock.  Likely mixed picture, currently maintaining
   maps > 65.
    - maintain MAP > 65, cont montiro UOP, lactate,
    - CVP 8-10
   #) Hypothermia: Patient current is normothermic,this was likely [**3-4**]
   being cool and clamped down in setting of cardiogenic shock
   - Warming blankets.
   - Will continue to monitor blood, sputum, and urine cultures.
   - Will check TSH with AM labs.
   - Repeat lactate later to ensure trending downward.
    - will continue to diurese with lasix drip with goal to improve
   hemodynamics
   .
   #) Systolic and diastolic CHF: Goal will be for diuresis once BP is
   stable (needed IVF bolus upon arrival for SBP 60's).
   - Lasix gtt as noted above, will try for goal UOP >40cc/hr once BP
   stable
   - Holding BB in setting of hypotension.
   - Not on ACE-i at baseline, will hold for now given tenuous volume
   status, consider initiating once volume status under better control
   - Recent echo as noted above.
   .
   #) Hypotension: Noted upon arrival to floor, likely [**3-4**] cardiogenic
   shock possibly exacerbated by lasix in ED.  Cannot r/o sepsis.  No
   recent steroid use that would make adrenal insufficiency more likely.
   Baseline BP is likely low given low EF, but further decline in BP could
   also represent cardiogenic shock.  Aline tracings demonstrating
   improved BPs in 110s.
   - AM cortisol
   - IVF bolus x1, will need to be careful with IVFs given low EF, but if
   developing sepsis will need IVF resuscitation.
   - Consider levophed if needed.
   .
   #) CAD: Ruling out for MI as noted above. Troponin was at baseline on
   admission, flat CK. [**Month (only) 60**] have some troponin leak from tachycardia in
   setting of acute renal failure.
   - Continuing ASA
   - Once able to (by BP), will add back carvediolol
   .
   #) DM: Cont sliding scale insulin.
   #) Coagulopathy: Unclear why PT, PTT, and INR all elevated. Patient is
   not listed as taking coumadin or other anticoagulation agents. She was
   discharged on SQ heparin, but this would not accound for elevated INR
   and PT. It is possible she has some degree of coagulopathy with her
   hypothermia. Fibrinogen was WNL. DIC v blocking [**Doctor Last Name **] v vit K
   deficiency.
   - Will check FDP with next set of labs.
   - Holding SQ heparin until PTT back to normal.
   - Monitor for signs of bleeding.
   .
   #) History of CVA: Per chart, non-verbal at baseline. Will continue to
   assess mental status and neurologic exam, if persistent deficits then
   would consider head CT.
   .
   #) Hypothyroidism: Continue home dose of levothyroxine, checking TSH.
   .
   #) Seizure disorder: Continuing home dose of keppra.
   .
   #) Dementia/Depression: Continuing Venlafaxine.
   .
   #) Acute renal failure: Per prior ICU attending, did well with diuresis
   to improve forward flow with ARF. Suspect this is secondary to total
   body fluid overload but patient remains relatively intravascularly dry.
   BP currently will not tolerate further diuresis based on BP drop from
   earlier, so will bolus to help UOP, but will ultimately need diuresis
   to help forward flow.
   - Will continue to monitor trend, send urine lytes, consider renal u/s
   if not improving.
   .
   #) Son [**Name (NI) 4874**] [**Name (NI) 5044**] (HCP) home - [**Telephone/Fax (1) 5045**] work - [**Telephone/Fax (1) 5046**]
   Called son and confirmed code status: Intubation and pressors
   acceptible, would not want resuscitation (eg no chest compressions). He
   plans to be in town Monday [**10-30**] and would be available for a family
   meeting to discuss tracheostomy
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2113-10-28**] 11:27 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2113-10-27**] 09:30 PM
   Multi Lumen - [**2113-10-28**] 05:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2113-10-30 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Crack in Central line, changed it over wire
   - Pulled back ET tube, still low, gave it twice
   - Urine output [**Doctor Last Name 42**], increased lasix gtt
   - Cortisol 30.2
   - HR 120s all day, gave 2.5mg IV metoprolol and started 12.5mg PO
   daily. MAPS have been >60
   Patient opens eyes with verbal and tactile stimuli.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2113-10-28**] 01:47 AM
   Vancomycin - [**2113-10-29**] 10:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-10-30**] 06:29 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2113-10-29**] 09:15 PM
   Fentanyl - [**2113-10-30**] 01:00 AM
   Other medications:
   Metoprolol 12.5 mg daily, Miconazole powder, Chlorhexidine, Lasix gtt,
   Tylenol, Colace, Keppra 250 mg, Albuterol and atrovent nebs, Regular
   insulin sliding scale, venlafaxine 37.5 mg, lansoprazole 30 mg, Timolol
   gtt, ASA 81 mg, Levothyroxine 125 mcg
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None.
   Flowsheet Data as of  [**2113-10-30**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 108 (97 - 124) bpm
   BP: 107/55(71) {82/49(61) - 163/153(276)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 15 (8 - 26)mmHg
   Total In:
                                                                  2,514 mL
                                                                    816 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    350 mL
   IVF:
                                                                    773 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                    551 mL
                                                                    155 mL
   Urine:
                                                                    251 mL
                                                                    155 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,963 mL
                                                                    661 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 50
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.47/32/89.[**Numeric Identifier 128**]/21/0 (4:30 AM)
   Ve: 9.2 L/min
   PaO2 / FiO2: 297
   Physical Examination
   General: Intubated, opens eyes and looks arounds
   HEENT: Temporal wasting, no scleral icterus, medial gaze of right eye
   unchanged. Pupils responsive. Moist mucous membranes.
   Neck: Right IJ in place.
   Lungs: BS bilaterally, rales at bases, decreased BS at bases
   Cardiac: Irregularly irregular, no rubs
   Abdomen: Soft, ND, +BS, PEG in place, resolving zoster lesions without
   skin breakdown.
   Extr: 3+ pitting edema throughout all extremities.
   Neuro: Opens eyes, withdrawals to noxious stimuli of feet, moving right
   arm spontaneously
   Labs / Radiology
   150 K/uL
   9.9 g/dL
   150 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.0 mEq/L
   68 mg/dL
   109 mEq/L
   141 mEq/L
   31.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2113-10-28**]  08:08 AM
                             [**2113-10-28**]  12:18 PM
                             [**2113-10-28**]  04:31 PM
                             [**2113-10-28**]  05:01 PM
                             [**2113-10-29**]  03:57 AM
                             [**2113-10-29**]  04:40 AM
                             [**2113-10-29**]  08:58 AM
                             [**2113-10-29**]  05:49 PM
                             [**2113-10-30**]  03:57 AM
                             [**2113-10-30**]  04:28 AM
   WBC
   14.9
   16.4
   12.8
   Hct
   29.9
   33.0
   31.3
   Plt
   140
   158
   150
   Cr
   1.3
   1.4
   1.4
   TropT
   0.08
   0.07
   TCO2
   27
   27
   26
   25
   26
   25
   24
   Glucose
   120
   195
   150
   Other labs: PT / PTT / INR:18.0/37.8/1.6, CK / CKMB /
   Troponin-T:22/2/0.07, ALT / AST:[**10-27**], Alk Phos / T Bili:62/1.2,
   Differential-Neuts:92.4 %, Lymph:4.4 %, Mono:2.9 %, Eos:0.3 %,
   Fibrinogen:217 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.5 g/dL, LDH:393
   IU/L, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Culture data:
   [**10-27**] Blood culture NGTD x2
   [**10-27**] Sputum culture: Moderate oropharyngeal flora
   [**10-27**] Urine culture: Yeast 10,000-100,000
   [**10-29**] Stool negative for c. difficile toxin A&B x2
   Assessment and Plan
   Patient is a [**Age over 90 382**] year old female with history of congestive heart
   failure, coronary artery disease, diabetes mellitus, and prior CVA who
   presents from her nursing home with respiratory distress, intubated in
   the emergency room for hypoxia, acidemia, hypercarbia, and increased
   work of breathing.
   .
   #) Respiratory failure: No significant changes. Difficult to diuresis
   in setting of low blood pressures. Presumed to be secondary to volume
   overloaded state, cannot rule out infection. Hypoxia also likely in
   part from pulmonary hypertension.
   - Lasix gtt today for steady gentle diuresis
goal 500 net out. Will
   continue as tolerated.
   - Zosyn and vanco to cover hospital acquired PNA (hx MRSA sputum), 10
   day course, today is day 4, given elevated lactate, borderline blood
   pressure, and question of hypothermia at presentation.
   - Son today will be coming from [**Last Name (LF) 4907**], [**First Name3 (LF) 178**] meet with team to discuss
   tracheostomy. He re-iterated that aside from resuscitation, he would
   want everything else done.
   - Patient continues to overbreathe vent at times, have gone down on TV,
   FiO2.
   - CVP 12 on vent.
   - Albuterol/atrovent PRN.
   .
   #) Hypothermia: Resolved. Had been concerning for sepsis.
   - Will continue to monitor blood, sputum, and urine cultures.
   - TSH and cortisol WNL.
   .
   #) Systolic and diastolic CHF: Elevated BNP, very edematous state
   support CHF exacerbation.
   - Lasix gtt as noted above, will try for goal UOP >40cc/hr once BP
   stable
   - Restarted BB for rate control as noted above.
   - Not on ACE-i at baseline.
   - Recent echo as noted above.
   .
   #) Hypotension: Resolved
had been concerning for sepsis or related to
   diuresis. No recent steroid use that would make adrenal insufficiency
   more likely. Baseline BP is likely low given low EF, but further
   decline in BP could also represent cardiogenic shock. Also likely that
   her new AF with RVR is resulting in some degree of hypotension.
   - cortisol WNL.
   - Diuresis as tolerated by BP
   - Following a-line pressures as these have been 10-20 pts higher than
   manual at times.
   - Work on rate control to improve forward flow
will increase BB and
   possibly give IV as needed for goal HR <100
   .
   #) Rhythm: Over the weekend, appeared to go into atrial fibrillation. P
   waves not clearly seen on telemetry or EKGs, however at times she
   appears more regular.
   - Will attempt to transducer rhythm strip off central line this
   afternoon.
   - Will attempt to determine nature of stroke, then consider heparin gtt
   (fall risk appears low given patient does not get out of bed).
   - Will work on rate control by going up on metoprolol as needed for
   goal HR <100 (to improve forward flow and BP).
   - TSH WNL, atrial fibrillation could be secondary to atrial stretch in
   setting of respiratory disease.
   #) CAD: Ruled out for MI over the weekend. Troponin was at baseline on
   admission and stable, flat CK. [**Month (only) 60**] have had some troponin leak from
   tachycardia in setting of acute renal failure.
   - Continuing ASA
   - BB as tolerated.
   .
   #) DM: Cont sliding scale insulin.
   #) Coagulopathy: PTT improved, but INR still elevated. Elevated INR
   may  have be due to poor nutritional status; liver synthetic function
   otherwise fairly unremarkable, plts WNL. Appears to not be [**Last Name **] problem
   based on old values. Fibrinogen was WNL.  Elevated PTT improved with
   holding SQ heparin
suspect some degree of systemic absorption. FDP was
   low, but DIC labs otherwise unrevealing.
   - Restarting SQ heparin today, [**Hospital1 **] dosing.
   - Monitor for signs of bleeding.
   .
   #) Hypothyroidism: Continue home dose of levothyroxine, TSH normal.
   .
   #) Seizure disorder: Continuing home dose of keppra.
   .
   #) Dementia/Depression: Continuing Venlafaxine.
   .
   #) Acute renal failure:  Stable. Suspect this is secondary to total
   body fluid overload but patient remains relatively intravascularly dry;
   suspect diuresis will help with forward flow and improve function as it
   has for patient in the past.
   - Will continue to monitor trend, send urine lytes, consider renal u/s
   if not improving.
   .
   #) Son [**Name (NI) 4874**] [**Name (NI) 5044**] (HCP) home - [**Telephone/Fax (1) 5045**] work - [**Telephone/Fax (1) 5046**]
   Called son and confirmed code status: Intubation and pressors
   acceptible, would not want resuscitation (eg no chest compressions).
   Per discussion over weekend, son should be in town today.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2113-10-29**] 04:34 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-10-27**] 09:30 PM
   Multi Lumen - [**2113-10-28**] 05:46 PM
   Prophylaxis:
   DVT: Re-starting heparin SQ [**Hospital1 **]
   Stress ulcer:  PPI
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Do not resuscitate, pressors and intubation okay per HCP.
   Disposition: ICU